US05731299
A mixture of 0.68 g (0.01 mole) of imidazole and 2.30 g (0.01 mole) of methyl 1-dimethoxyphosphinylethenesulfonate (U.S. Pat. No. 5,011,938 issued to Barnett et al. on Apr. 30, 1991) in 20 ml of chloroform is stirred at 20°-50° for one day. The reaction is cooled to room temperature, and 10.7 g (0.07 mole) of bromotrimethylsilane is added. The mixture is stirred at 20°-30° for 2-3 days, and to it is then added 20 ml water. The mixture is stirred for about 30 minutes, and the layers are separated. The water layer is extracted several times with CHCl3 (extracts are discarded) and is evaporated to dryness under vacuum. The residue is triturated with acetone to give a solid, which is collected by filtration and recrystallized from water/acetone to afford 2-(1-imidazolyl)-1-phosphonoethanesulfonic acid.

reactant | imidazole | 0.01 mole, 0.68 g | N1C=NC=C1 | C3H4N2
reactant | methyl 1-dimethoxyphosphinylethenesulfonate | 0.01 mole, 2.30 g | COP(=O)(C(=C)S(=O)(=O)OC)OC | C5H11O6PS
reactant | bromotrimethylsilane | 0.07 mole, 10.7 g | Br[Si](C)(C)C | C3H9BrSi
reactant | water | 20 ml | O | H2O
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-(1-imidazolyl)-1-phosphonoethanesulfonic acid | N1(C=NC=C1)CC(S(=O)(=O)O)P(=O)(O)O | C5H9N2O6PS
